US07241787B2
4-Cyclopentyloxyaniline
A mixture of 4-nitrophenol (63.7 g), bromocyclopentane (68.2 g), potassium carbonate (63.3 g) and DMF (300 mL) was heated at 80° C. for 24 hours. After cooling, it was diluted with water and extracted with ethyl acetate. The organic phase was washed with water, dried over magnesium sulfate and concentrated. The residue was hydrogenated in ethanol using palladium(II) hydroxide as catalyst. The product with the molecular weight of 177.25 (C11H15NO) was obtained in this way; MS (ESI): 178 (M+H+).

reactant | 4-nitrophenol | 63.7 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | bromocyclopentane | 68.2 g | BrC1CCCC1 | C5H9Br
reactant | potassium carbonate | 63.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Cyclopentyloxyaniline | C1(CCCC1)OC1=CC=C(N)C=C1 | C11H15NO
